*  
* Diode Model Produced by Altium Ltd  
* Date:  3-May-2004 
*  
* Manufacturer: Renesas  
* Component Name: HDSP-7403  
*  
* Parameters derived from information available in data sheet.  
* 
*                 common-cathode
*                 |  anode-f
*                 |  |  anode-g
*                 |  |  |  anode-e
*                 |  |  |  |  anode-d
*                 |  |  |  |  |  common-cathode
*                 |  |  |  |  |  |  anode-DP
*                 |  |  |  |  |  |  |  anode-c
*                 |  |  |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_7403 1  2  3  4  5  6  7  8  9  10

DA1  10  1  dHDSP_7403
DB1   9  1  dHDSP_7403
DC1   8  1  dHDSP_7403
DD1   5  1  dHDSP_7403
DE1   4  1  dHDSP_7403
DF1   2  1  dHDSP_7403
DG1   3  1  dHDSP_7403
DDP1  7  1  dHDSP_7403

DA2  10  6  dHDSP_7403
DB2   9  6  dHDSP_7403
DC2   8  6  dHDSP_7403
DD2   5  6  dHDSP_7403
DE2   4  6  dHDSP_7403
DF2   2  6  dHDSP_7403
DG2   3  6  dHDSP_7403
DDP2  7  6  dHDSP_7403

.MODEL dHDSP_7403 D
+ (  
+    IS = 2.77296438E-23 
+    N  = 1.39205436 
+    RS = 25.13253104 
+    BV = 45.00000000 
+    IBV = 100u 
+ )  

.ENDS HDSP_7403